US09376436B2
Ethyl 2-(benzyloxycarbonylamino)-2-methyl-propanoate (D25)
To a solution of 2-(benzyloxycarbonylamino)-2-methyl-propanoic acid (which may be prepared as described in Description 24) (5000 mg, 21.08 mmol) in toluene (50 mL) was added ethanol (5 mL) and p-toluenesulfonic acid (400.89 mg, 2.11 mmol). The solution was stirred at 80° C. overnight. The reaction mixture was evaporated and the residues dissolved in EtOAc and washed with saturated aqueous sodium bicarbonate. The aqueous phase was back extracted into EtOAc. The combined organics were dried over magnesium sulphate, filtered and evaporated to yield the title compound as a light yellow oil (4.667 g);

reactant | 2-(benzyloxycarbonylamino)-2-methyl-propanoic acid | 21.08 mmol, 5000 mg | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(C)C | C12H15NO4
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | p-toluenesulfonic acid | 2.11 mmol, 400.89 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-(benzyloxycarbonylamino)-2-methyl-propanoate | 4.667 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OCC)(C)C | C14H19NO4
